US09447090B2
A mixture of 860 mg of 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid, 992 mg of 1-benzyl-4-methylpiperidine-4-amine dihydrochloride, 170 mg of O-(7-azabenzotriazole-1-yl)-N,N,N′,N′,-tetramethyluronium hexafluorophosphate, 3 mL of diisopropylethylamine, and 10 mL of DMF was stirred for 1 day. To the reaction mixture were added water and ethyl acetate to carry out a layer separation operation. The organic layer was washed with water and saturated brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 1.25 g of N-(1-benzyl-4-methylpiperidin-4-yl)-8-(cyclohexylmethoxy)-2-methylimidazolo[1,2-a]pyridine-3-carboxamide.

reactant | 8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 860 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)O | C16H20N2O3
reactant | 1-benzyl-4-methylpiperidine-4-amine dihydrochloride | 992 mg | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)(N)C
reactant | O-(7-azabenzotriazole-1-yl)-N,N,N′,N′,-tetramethyluronium hexafluorophosphate | 170 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 3 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(1-benzyl-4-methylpiperidin-4-yl)-8-(cyclohexylmethoxy)-2-methylimidazolo[1,2-a]pyridine-3-carboxamide | 1.25 g | C(C1=CC=CC=C1)N1CCC(CC1)(C)NC(=O)C1=C(N=C2N1C=CC=C2OCC2CCCCC2)C | C29H38N4O2
